US07521455B2
(1) Manufacture of 8-azabicyclo[3.2.1]octane hydrochloride
Tropane (11.0 mL, 7.44 mmol) was dissolved in toluene (10 mL), chloroethyl carbonate (2.2 mL, 23 mmol) was added slowly, and the mixture stirred at 80° C. for 24 hours. Distilled water was added to the reaction mixture, and the mixture extracted with ethyl acetate. The organic phase was dried and concentrated by anhydrous magnesium sulfate. The obtained oily residue was dissolved in concentrated hydrochloric acid (10 mL), and heated with stirring at 100° C. for 2 hours. The solvent was distilled off under reduced pressure, toluene was added to the residue, and the mixture distilled under reduced pressure to obtain the target substance (820 mg, 72%) as a colorless solid.

reactant | Tropane | 7.44 mmol, 11.0 mL | [C@H]12CCC[C@H](CC1)N2C | C8H15N
reactant | chloroethyl carbonate | 23 mmol, 2.2 mL | C(OCCCl)([O-])=O
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 8-azabicyclo[3.2.1]octane hydrochloride | Cl.C12CCCC(CC1)N2 | InChI=1S/C7H13N.ClH/c1-2-6-4-5-7(3-1)8-6;/h6-8H,1-5H2;1H
